US08227462B2
(5-Bromo-2-nitro-phenyl)-tert-butyl-amine
A mixture of 4-bromo-2-fluoro-nitrobenzene (4 g, 18.2 mmol) and tert-butylamine (4.78 mL, 45.5 mmol, 2.5 eq) in EtOH (80 mL) is stirred for 15 h at 85° C., allowed to cool and concentrated. The residue purified by silica gel column chromatography (Hex/EtOAc, 1:0→99:1) to afford 4.8 g of the title compound as an orange solid: ESI-MS: 273.0/275.0 [M+H]+; tR=5.68 min (System 1); TLC: Rf=0.49 (Hex/EtOAc, 9:1).

reactant | 4-bromo-2-fluoro-nitrobenzene | 18.2 mmol, 4 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | tert-butylamine | 45.5 mmol, 4.78 mL, 2.5 eq | C(C)(C)(C)N | C4H11N
solvent | EtOH | 80 mL | CCO | C2H6O
product | (5-Bromo-2-nitro-phenyl)-tert-butyl-amine | 4.8 g | BrC=1C=CC(=C(C1)NC(C)(C)C)[N+](=O)[O-] | C10H13BrN2O2
